2142-03-02 06:16:00 Physician Resident Progress Note
Chief Complaint: 69-year-old male with history of recent subdural
   hematoma evacution presents with massive bilateral PE now with fevers
   24 Hour Events:
   - Patient trigger - desaturation to 74% on RA, placed on NRB with
   return of SaO2. Temperature found to be 105. Rigors. CXR with new LLL
   infiltrate. Started on vanc/cefepime.
   - became relatively hypotensive (SBP 80-90s), gave NS bolus. Nl
   lactate. Transferred to ICU
   - CTA - bilateral filling defects of R and L pulm arteries - minimally
   decreased in size, fluid collection in left hip abductor area - may be
   hematoma or abcess
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2142-3-1**] 09:47 PM
   Vancomycin - [**2142-3-2**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-3-2**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.6
C (97.9
   HR: 86 (83 - 97) bpm
   BP: 114/53(69) {94/47(57) - 132/84(89)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,030 mL
                                                                    656 mL
   PO:
             TF:
   IVF:
                                                                    780 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    230 mL
   Urine:
                                                                    660 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,370 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar), anterior exam
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   9.1 g/dL
   127 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   20 mg/dL
   115 mEq/L
   146 mEq/L
   28.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-3-1**]  07:50 PM
                             [**2142-3-2**]  02:41 AM
   WBC
   9.4
   Hct
   28.1
   Plt
   116
   Cr
   1.1
   1.0
   Glucose
   129
   127
   Other labs: PT / PTT / INR:32.1/80.0/3.2, Mg++:2.6 mg/dL
   Imaging: CXR: New retrocardiac and left lower lobe opacity likely
   represents left lower lobe aspiration, however, atelectasis or
   pneumonia cannot be completely excluded.
   CTA Chest: prelim: 1. New multifocal areas of ground-glass opacity
   within bilateral lung parenchyma most compatible with infectious
   etiology.
   2. Mildly decreased extent of bilateral pulmonary embolism within the
   right
   and left pulmonary arteries extending into the segmental and
   subsegmental
   branches. 3. Fluid collection and enlargement of the left hip abductor
   muscles may represent hematoma, fluid collections-abscess, or muscular
   infarction. This is also at the location of previous interventions in
   the left groin for IVC filter placement. Clinical correlation is
   recommended. In case of clinical concern for abscess formation, an MRI
   can be obtained for further evaluation. 4. Bilateral renal cysts, liver
   cysts and enlarged prostate.
   Microbiology: [**2-27**] urine culture negative
   [**3-1**] blood cultures pending
   [**2-28**] sputum cultures cancelled
   [**2-25**] blood cultures pending
   Assessment and Plan
   69-year-old male with history of recent subdural hematoma s/p
   evacuation presents with massive bilateral PE and DVT. Now has fevers.
   # Pulmonary embolism: Large with evidence of right heart dysfunction.
   Pressures have remained stable so far. On heparin gtt and coumadin
   currently. Also has IVC filter inplace. If becomes hypotensive and not
   responsive to fluids may have to thrombolyse, which puts head at risk.
   - continue heparin gtt with goal PTT 60
   - continue coumadin - bridge with heparin 2 days
   - keep SaO2 > 92% RA
   - activity with PT, incentive spirometer, to chair
   - follow up final CTA read
   # Fever: Unclear source but very high fever. ?pulmonary with LLL
   infiltrates on CXR. CTA did not show very large pneumonia or
   aspiration. Rigors suggesting bacteremia.
   - continue cefepime/vanc for now (day 2)
   - follow up blood cultures
   - follow up urine cultures
   - follow up final CTA read
   - attempt sputum cultures
   - tylenol PRN for fever
   - speech and swallow consult
   - trend T and WBC
   - consider further imaging of fluid collection of hip
   # Subdural hematoma: Stable per neuro checks. Can be difficult to
   assess at times due to language barrier.
   - continue above
   - CT head with any changes in neuro exam
   - keppra
   # Abdominal ileus: no abdominal pain. Has stools and bowel sounds.
   Still appears distended. No nausea or vomiting.
   - speech and swallow consult
   - advance diet per above
   - continue bowel regimen
   # HTN: hold antihypertensives for now
   # Hyperlipidemia: continue statin
   ICU Care
   Nutrition:
   Comments: diet per speech and swallow
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-3-1**] 05:01 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   I have seen and examined the patient and rounded with team on patient.
   I agree fully with note and it reflects the collective team opinion.
   Duration of time spent on patient care: 40 min

2142-03-03 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Saddle PEs
   24 Hour Events:
   - Patient developed worsening lt hip/thigh pain.  Ortho consulted due
   to concern for septic prosthetic joint.   Ortho thinks exam is
   concerning for septic hip.  Rec aspiration by IR (but IR thinks it's
   not possible while anticoagulated).  Hip X-rays also obtained.
   - Ultrasound of previous fluid collection obtained and was consistent
   with hematoma.
   - Patient in the evening had temp up to 102 and was rigoring.  No focal
   source of infection found with cultures/imaging from morning rigoring
   session.
   - Flagyl added for aneorobic coverage due to continued fevers.
   - TTE showed improvement in right heart size with EF of 50-55%.
   - making poor urine, bolused 500cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2142-3-2**] 10:09 PM
   Vancomycin - [**2142-3-3**] 12:00 AM
   Metronidazole - [**2142-3-3**] 01:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-3-3**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 38.9
C (102
   Tcurrent: 36.3
C (97.4
   HR: 85 (85 - 133) bpm
   BP: 104/59(70) {82/51(61) - 143/91(97)} mmHg
   RR: 19 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 115 kg
   Height: 72 Inch
             Total In:
                                                                  1,484 mL
                                                                  1,366 mL
   PO:
             TF:
   IVF:
                                                                  1,484 mL
                                                                  1,366 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    160 mL
   Urine:
                                                                  1,130 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    354 mL
                                                                  1,206 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 98%
   ABG: 7.44/30/63//-1
   Physical Examination
   General Appearance: Overweight / Obese, no acute distress.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal,)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar left > right),
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   9.1 g/dL
   127 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   20 mg/dL
   115 mEq/L
   146 mEq/L
   28.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-3-1**]  07:50 PM
                             [**2142-3-2**]  02:41 AM
                             [**2142-3-2**]  07:29 PM
   WBC
   9.4
   Hct
   28.1
   Plt
   116
   Cr
   1.1
   1.0
   TCO2
   21
   Glucose
   129
   127
   Other labs: PT / PTT / INR:32.1/80.0/3.2, CK / CKMB / Troponin-T:237//,
   Lactic Acid:2.5 mmol/L, Mg++:2.6 mg/dL
   Imaging: [**3-2**] - left femoral ultrasound
   FINDINGS: A 3.9 cm x 2.7 cm x 1.9 cm hypoechoic lesion in the
   subcutaneous
   tissue at the left groin just superomedial to the femoral vessels is
   consistent with hematoma. Patent flow is identified in the left common
   femoral artery and left common femoral vein on color and Doppler
   imaging. No
   pseudoaneurysm is seen arising from the left common femoral artery, and
   there
   is no evidence of arteriovenous fistula at this site.
   IMPRESSION:
   1. Hematoma at the left groin.
   2. No evidence of pseudoaneurysm arising from the left common femoral
   artery.
   Echo [**3-2**]:
   Suboptimal image quality. Left ventricular wall thicknesses and cavity
   size are normal. Due to suboptimal technical quality, a focal wall
   motion abnormality cannot be fully excluded. Overall left ventricular
   systolic function is low normal (LVEF 50-55%). The RV is now well seen
   but appears normal in size (function cannot be adequately assessed on
   this study). The aortic valve leaflets (3) are mildly thickened but
   aortic stenosis is not present. Trace aortic regurgitation is seen.
   Trivial mitral regurgitation is seen. Tricuspid regurgitation is
   present but cannot be quantified. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2142-2-21**], RV
   apppears smaller however images are of poor quality.
   [**3-1**]: CT thorax
   1. New multifocal areas of ground-glass opacity within bilateral lung
   parenchyma most compatible with infectious etiology.
   2. Mildly decreased extent of bilateral pulmonary embolism within the
   right
   and left pulmonary arteries extending into the segmental and
   subsegmental
   branches.
   3. Fluid collection and enlargement of the left hip abductor muscles
   may
   represent hematoma, abscess, or infarction. This is also at the
   location of
   previous interventions in the left groin for IVC filter placement.
   Clinical
   correlation is recommended. In case of clinical concern for abscess
   formation, an MRI can be obtained for further evaluation.
   4. Renal cysts, liver cysts and enlarged prostate.
   Microbiology: [**3-2**] - c-diff negative
   Sputum, blood, urine cx
 ngtd
   Assessment and Plan
   69-year-old male with history of recent subdural hematoma s/p
   evacuation presents with massive bilateral PE and DVT. Now has fevers.
   # Pulmonary embolism: Large with evidence of right heart dysfunction.
   Pressures have remained stable so far. On heparin gtt and coumadin
   currently. Also has IVC filter inplace. If becomes hypotensive and not
   responsive to fluids may have to thrombolyse, which puts head at risk.
   -          hold coumadin as INR is elevated today, re-check INR
   tomorrow.
   -          breakup of PE may also be the cause of his fevers, and his
   hypoxia.
   # Fever: Unclear source but very high fever. ?pulmonary with LLL
   infiltrates on CXR. CTA did not show very large pneumonia or
   aspiration. Rigors suggesting bacteremia.  Hip fluid collection may
   also be an abscess for source of fevers with infected prosthesis.  The
   patient appears to be improving on current antibiotics, however if he
   worsens again the hip will need to be aspirated.
   - continue cefepime/vanc for now (day 3).  Also continue flagyl (day 2)
   - follow up blood cultures
   - follow up urine cultures
   - attempt sputum cultures
   - appreciate ortho recs.
   - tylenol PRN for fever
   # Subdural hematoma: Stable per neuro checks. Can be difficult to
   assess at times due to language barrier.
   - continue above
   - CT head with any changes in neuro exam
   - keppra
   # Abdominal ileus: no abdominal pain. Has stools and bowel sounds.
   Still appears distended. No nausea or vomiting.
   - speech and swallow consult
   - advance diet per above
   - continue bowel regimen
   # HTN: hold antihypertensives for now
   # Hyperlipidemia: continue statin
   ICU Care
   Nutrition: soft thin liquids
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2142-3-1**] 05:01 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: none
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   I have reviewed the progress note history and physical examination on
   [**2142-3-3**] by Dr. [**Last Name (STitle) **] [**Last Name (STitle) 1558**] above.  I was present during the
   pertinent portions of the physical examination today.   I concur with
   the diagnostic evaluation and treatment plan outlined above.
   Approximately 50% allocated time involved coordination of care.
   MEDICAL DECISION MAKING.  This 69 year old man with a history of DVT
   and PE developed a subdural hematoma while on oral warfarin therapy.
   While off warfarin, he developed a saddle pulmonary embolus.  An IVC
   filter was placed.  He was made a slow recovery but recently developed
   a temperature to 105 (now 101) without obvious source of the
   infection.  The likely sources are pulmonary or a potential for a left
   hip abscess.  On examination today, there was much less hip tenderness
   and the abdomen is soft in the LLQ.  He has rales bilaterally and we
   will add diuresis with furosemide to day to obtain approximately
   [**Telephone/Fax (1) 264**] cc negative.  We will continue his current medical therapy
   with antibiotics and assess his symptomatic response.
   ASSESSMENT:  s/p sudural hematoma
                               Massive PE with residual hypoxemia and
   atelectasis
                                Left hip pain s/p left hip replacement
   with fluid (abscess v. hematoma) left retroperitoneal space
   PLAN:                     Continue current medical therapy with IV
   diuresis and monitoring for recurrent PE
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Telephone/Fax (1) 6129**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2142-3-3**] 16:03 ------